US07935815B2
A solution of 5-chloro-2-cyclopropyl-valeric acid hydrazide (125 mg) in ethanol (1.5 mL) was added to a solution of ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate dihydrochloride (259 mg) and TEA (0.46 ml) in ethanol (3 ml), and the reaction solution was stirred at 70° C. for 22 hours. The reaction solution was left to cool to room temperature. Then, ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (carrier: Chromatorex™ NH; elution solvent: heptane-ethyl acetate system) and again purified by silica gel column chromatography (elution solvent: ethyl acetate-methanol system) to obtain 43 mg of racemic 8-cyclopropyl-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine. Then, the racemate was separated by CHIRALPAK™ IB manufactured by Daicel Chemical Industries, Ltd. (2 cm×25 cm; mobile phase: 20% ethanol-hexane) to obtain the title optically active compound with a retention time of 28 minutes and negative optical rotation (16.4 mg; 100% ee) and the title optically active compound with a retention time of 49 minutes and positive optical rotation (16.3 mg; 99% ee).

reactant | 5-chloro-2-cyclopropyl-valeric acid hydrazide | 125 mg | ClCCCC(C(=O)NN)C1CC1 | C8H15ClN2O
reactant | ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate dihydrochloride | 259 mg | Cl.Cl.COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(OCC)=N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | racemic 8-cyclopropyl-2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine | 43 mg | C1(CC1)C1C=2N(CCC1)N=C(N2)\C=C\C2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C22H25N5O
